US06313122B1
A. N1-(4-Methoxybenzoyl)-N2-(4-carboxy-1-oxobutyl)-1,2-benzenediamine
N1-(4-Methoxybenzoyl)-1,2-benzenediamine (3.0 g, 12 mmol), glutaric anhydride (1.7 g, 15 mmol), and pyridine (7 mL) were dissolved in methylene chloride (2 mL) and allowed to stir at ambient temperature for 5 h. The reaction mixture was quenched with water (2 mL) and concentrated in vacuo. The resultant residue was acidified with aqueous sulfuric acid. The resulting white solid was collected and dried at 60° C. in vacuo to yield 3.88 g (88%) of the title compound.

reactant | N1-(4-Methoxybenzoyl)-1,2-benzenediamine | 12 mmol, 3.0 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | glutaric anhydride | 15 mmol, 1.7 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N1-(4-Methoxybenzoyl)-N2-(4-carboxy-1-oxobutyl)-1,2-benzenediamine | 3.88 g, 88% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(CCCC(=O)O)=O)C=C1 | C19H20N2O5
